US09212196B2
To a solution of ethyl 2-(p-tolylamino)acetate (1.69 mmol) in methanol/water (20 ml/20 ml) was added the 2,3 dichloro-5,6-dicyanobenzoquinone (2.87 mmol) and the mixture was stirred for 4 hours at room temperature. The residue was chromatographed on a silica gel column (dichloromethane/ethyl acetate 8/2 as eluent) to give 88 mg of ethyl 2-(4-formylphenylamino)acetate. (yield 25%). MS (ESI): m/z 208.0 [M+H]+

reactant | ethyl 2-(p-tolylamino)acetate | 1.69 mmol | C1(=CC=C(C=C1)NCC(=O)OCC)C | C11H15NO2
reactant | 2,3 dichloro-5,6-dicyanobenzoquinone | 2.87 mmol | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | methanol water | 20 ml | CO.O
product | ethyl 2-(4-formylphenylamino)acetate | 88 mg, yield 25% | C(=O)C1=CC=C(C=C1)NCC(=O)OCC | C11H13NO3
